US08609715B2
Step 1. Synthesis of N-allyl-L-aspartic acid di-tert-butyl ester hydrochloride
The obtained N-allyl-L-aspartic acid di-tert-butyl ester was dissolved in acetonitrile (10 mL), and water (17 mL) and 1N hydrochloric acid (1.8 mL, 1.8 mmol) were added. The solution was concentrated under reduced pressure and freeze-dried to give the title compound (0.54 g, 1.7 mmol, 47%).

reactant | N-allyl-L-aspartic acid di-tert-butyl ester | C(C)(C)(C)OC([C@@H](NCC=C)CC(=O)OC(C)(C)C)=O | C15H27NO4
reactant | water | 17 mL | O | H2O
reactant | hydrochloric acid | 1.8 mmol, 1N, 1.8 mL | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-allyl-L-aspartic acid di-tert-butyl ester hydrochloride | 1.7 mmol, 0.54 g, 47% | Cl.C(C)(C)(C)OC([C@@H](NCC=C)CC(=O)OC(C)(C)C)=O | InChI=1S/C15H27NO4.ClH/c1-8-9-16-11(13(18)20-15(5,6)7)10-12(17)19-14(2,3)4;/h8,11,16H,1,9-10H2,2-7H3;1H/t11-;/m0./s1
